US07268159B2
A mixture of 4-nitrobenzyl bromide (1.85 g, 8.56 mmol), 1H-indole-2-carboxylic acid ethyl ester (1.62 g, 8.56 mmol) and potassium carbonate (4.17 g, 30 mmol) in 100 mL of acetone was refluxed for 1 day. After cooling to room temperature the reaction was quenched by addition of water and then partitioned between water and methylene chloride. The organic phase was dried over MgSO4, and concentrated to yield ethyl 1-(4-nitrobenzyl)-1H-indole-2-carboxylate as an off-white solid (2.0 g, 72%): 1H NMR (DMSO-d6) δ 1.27 (t, J=7.1 Hz, 3H), 4.26(q, J=7.1 Hz, 3H), 5.99(s, 2H), 7.18(t, J=7.0 Hz, 1H), 7.22 (d, J=9.0-Hz, 2H), 7.34 (t, J=7.0 Hz, 1H), 7.43 (s, 1H), 7.58 (d, J=13.8 Hz, 1H), 7.76 (d, J=13.8 Hz, 1H), 8.15 (d, J=9.0 Hz, 2H); MS (ESI) m/z 325 (MH+).

reactant | 4-nitrobenzyl bromide | 8.56 mmol, 1.85 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1H-indole-2-carboxylic acid ethyl ester | 8.56 mmol, 1.62 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | potassium carbonate | 30 mmol, 4.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl 1-(4-nitrobenzyl)-1H-indole-2-carboxylate | 2.0 g, 72% | [N+](=O)([O-])C1=CC=C(CN2C(=CC3=CC=CC=C23)C(=O)OCC)C=C1 | C18H16N2O4
